US08349824B2
The product was prepared in the same manner as described in example 1b using 1,2-diamino-4-bromopyridinium 2,4,6-trimethylbenzenesulfonate (2 g, 5.15 mmol) and 3-fluorobenzoyl chloride (1.24 ml, 10.3 mmol) as starting materials. The reaction affords 7-Bromo-2-(3-fluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (1.067 g, 70.9%) as pink solid. mp.: 186-188° C., MS: m/z=291.9/293.9 (M+H+).

reactant | 1,2-diamino-4-bromopyridinium 2,4,6-trimethylbenzenesulfonate | 5.15 mmol, 2 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].N[N+]1=C(C=C(C=C1)Br)N
reactant | 3-fluorobenzoyl chloride | 10.3 mmol, 1.24 ml | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
product | 7-Bromo-2-(3-fluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 1.067 g, 70.9% | BrC1=CC=2N(C=C1)N=C(N2)C2=CC(=CC=C2)F | C12H7BrFN3
